US09216980B2
Preparation of 1-(4-Bromobenzyl)-piperidine-4-carbonitrile
A mixture of 4-bromobenzyl bromide (1.0 g, 4.0 mmol), triethylamine (0.84 mL, 6.0 mmol) and piperidine-4-carbonitrile (880 mg, 8.0 mmol) in THF (20 mL) was stirred at ambient temperature for 18 h. The reaction mixture was evaporated in vacuo and the residue partitioned between saturated sodium bicarbonate solution (100 mL) and dichloromethane (100 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo. The resultant residue was purified by flash chromatography (silica, Biotage 50 g column, 0-100% ethyl acetate in cyclohexane) to afford the title compound (1.10 g, 99%). 1H NMR (CDCl3, 300 MHz): 7.46-7.41 (m, 2H); 7.21-7.15 (m, 2H); 3.44 (s, 2H); 2.70-2.57 (m, 3H); 2.38-2.22 (m, 2H); 1.99-1.74 (m, 4H). LCMS (Method B): RT=1.82 min, M+H+=280.

reactant | 4-bromobenzyl bromide | 4.0 mmol, 1.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylamine | 6.0 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | piperidine-4-carbonitrile | 8.0 mmol, 880 mg | N1CCC(CC1)C#N | C6H10N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-Bromobenzyl)-piperidine-4-carbonitrile | 1.10 g, 99% | BrC1=CC=C(CN2CCC(CC2)C#N)C=C1 | C13H15BrN2
